US06855708B2
3,5-Dichloropyridine-4-carboxylic acid chloride (0.54 g, 2.6 mmol) was dissolved in CH2Cl2 (2.6 mL, 2.6 mmol) and NH3 (2.0 M in dioxane) (6.5 mL) was added. The reaction mixture was cooled to 0° C. for 30 min. The residue was quenched with water and extracted with EtOAc. The organic layer was washed with brine, dried over anhydrous MgSO4 and concentrated in vacuo. The crude product was purified by preparative HPLC on silica gel to yield 3,5-dichloropyridine-4-carboxamide (0.135 g).

reactant | 3,5-Dichloropyridine-4-carboxylic acid chloride | 2.6 mmol, 0.54 g | ClC=1C=NC=C(C1C(=O)Cl)Cl | C6H2Cl3NO
reactant | CH2Cl2 | 2.6 mmol, 2.6 mL | C(Cl)Cl | CH2Cl2
reactant | NH3 | 2.0 M, 6.5 mL | N | H3N
product | 3,5-dichloropyridine-4-carboxamide | 0.135 g | ClC=1C=NC=C(C1C(=O)N)Cl | C6H4Cl2N2O
